US07157491B2
3-(2,2-Dimethoxy-ethoxy)-4′-methoxy-4-methyl-biphenyl
To NaH (357 mg (600 mg 60% in mineral oil, hexane washed 3×), 14.86 mmol) was added dry THF (100 ml), 4′-methoxy-4-methyl-biphenyl-3-ol (1.59 g, 7.43 mmol), and 2-bromo-1,1-dimethoxy ethane (1.76 g, 10.40 mmol). The reaction was stirred at 60° C. overnight, cooled, passed through a silica plug and concentrated to 1.66 g (74%) of product as a white solid: mp 3940° C.; 1H NMR (300 MHz, DMSO-d6): δ 2.17 (3H, s), 3.38 (6H, s), 3.79 (3H, s), 4.09 (2H, d, J=5.2 Hz), 4.73 (1H, t, J=5.2 Hz), 7.00 (2H, d, J=8.8 Hz), 7.09 (1H, dd, J=7.7 Hz, 1.5 Hz), 7.15 (1H, d, J=1.2 Hz), 7.18 (1H, d, J=7.8 Hz), 7.62 (2H, d, J=8.8 Hz); MS (ESI) m/z 303 ([M+H]+).

reactant | NaH | 14.86 mmol, 357 mg | [H-].[Na+]
reactant | 4′-methoxy-4-methyl-biphenyl-3-ol | 7.43 mmol, 1.59 g | COC1=CC=C(C=C1)C1=CC(=C(C=C1)C)O | C14H14O2
reactant | 2-bromo-1,1-dimethoxy ethane | 10.40 mmol, 1.76 g | BrCC(OC)OC | C4H9BrO2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-(2,2-Dimethoxy-ethoxy)-4′-methoxy-4-methyl-biphenyl | COC(COC=1C=C(C=CC1C)C1=CC=C(C=C1)OC)OC | C18H22O4
